US05290789
A mixture of 2,3,4-trimethyl-3-piperidinepropanol (13.0 g, 70 mmol), acetone (400 mL), methanol (300 mL), sodium cyanoborohydride (4.4 g, 70 mmol), 3A molecular sieves (30 g) and acetic acid (4.0 mL, 70 mmol) was stirred under a nitrogen atmosphere for 2 hours. The pH was readjusted to a pH of 5 by the addition of 1.5 mL of additional acetic acid and the reaction mixture was stirred for 24 hours. The reaction mixture was filtered and the filtrate was concentrated in vacuo. The residue was dissolved in water (200 mL) and acetone (20 mL) and was acidified with concentrated hydrochloric acid. The mixture was basified with 10% NAOH and extracted with ether (4×300 mL) . The ether extracts were combined, washed with brine and dried over Na2SO4. The solvent was removed in vacuo and the residue was purified by a Kugelrohr distillation at 0.1 mm Hg and 100-110° C. to afford 15.7 g (99%) of 2,3. 4-trimethyl-l- (1-methylethyl)-3-piperidinepropanol as a colorless oil.

reactant | 2,3,4-trimethyl-3-piperidinepropanol | 70 mmol, 13.0 g | CC1NCCC(C1(CCCO)C)C | C11H23NO
reactant | acetone | 400 mL | CC(=O)C | C3H6O
reactant | sodium cyanoborohydride | 70 mmol, 4.4 g | C(#N)[BH3-].[Na+]
solvent | acetic acid | 1.5 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 300 mL | CO | CH4O
solvent | acetic acid | 70 mmol, 4.0 mL | C(C)(=O)O | C2H4O2
product | 2,3. 4-trimethyl-l- (1-methylethyl)-3-piperidinepropanol | 15.7 g, 99% | CC1N(CCC(C1(CCCO)C)C)C(C)C | C14H29NO
